US08748613B2
(R)-Quinuclidin-3-yl 2-phenyl-2-(piperidin-1-yl)acetate (120 mg, 0.36 mmol) was dissolved in ethyl acetate (3.65 ml) and 2-bromo-1-(thiazol-2-yl)ethanone (83 mg, 0.42 mmol) was added. The mixture was stirred at room temperature for 16 hours. The solvent was evaporated and the residue was purified by flash chromatography (DCM/MeOH=95/5 to 9/1) to obtain (3R)-1-(2-oxo-2-(thiazol-2-yl)ethyl)-3-(2-phenyl-2-(piperidin-1-yl)acetoxy)-1-azoniabicyclo[2.2.2]octane bromide (125 mg, 0.234 mmol, 64.0% yield) pale brown solid.

reactant | (R)-Quinuclidin-3-yl 2-phenyl-2-(piperidin-1-yl)acetate | 0.36 mmol, 120 mg | C1(=CC=CC=C1)C(C(=O)O[C@H]1CN2CCC1CC2)N2CCCCC2 | C20H28N2O2
reactant | 2-bromo-1-(thiazol-2-yl)ethanone | 0.42 mmol, 83 mg | BrCC(=O)C=1SC=CN1 | C5H4BrNOS
solvent | ethyl acetate | 3.65 ml | C(C)(=O)OCC | C4H8O2
product | (3R)-1-(2-oxo-2-(thiazol-2-yl)ethyl)-3-(2-phenyl-2-(piperidin-1-yl)acetoxy)-1-azoniabicyclo[2.2.2]octane bromide | 0.234 mmol, 125 mg, 64.0% yield | [Br-].O=C(C[N+]12C[C@@H](C(CC1)CC2)OC(C(N2CCCCC2)C2=CC=CC=C2)=O)C=2SC=CN2 | InChI=1S/C25H32N3O3S.BrH/c29-21(24-26-11-16-32-24)17-28-14-9-19(10-15-28)22(18-28)31-25(30)23(20-7-3-1-4-8-20)27-12-5-2-6-13-27;/h1,3-4,7-8,11,16,19,22-23H,2,5-6,9-10,12-15,17-18H2;1H/q+1;/p-1/t19?,22-,23?,28?;/m0./s1
